US07435744B2
6-[2-Oxo-2-(4-phenoxy-piperidin-1-yl)-ethylamino]-3H-benzoxazol-2-one (45 70003156)
The title compound is prepared from 2-chloro-1-(4-phenoxy)-piperidin-1-yl]-ethanone and 6-amino-3H-benzoxazol-2-one according to the method described in Example 206. Melting Point:220-223° C. (diethylether)

reactant | ethanone | C(C)=O | C2H4O
reactant | 6-amino-3H-benzoxazol-2-one | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
reactant | diethylether | C(C)OCC | C4H10O
product | 6-[2-Oxo-2-(4-phenoxy-piperidin-1-yl)-ethylamino]-3H-benzoxazol-2-one | O=C(CNC1=CC2=C(NC(O2)=O)C=C1)N1CCC(CC1)OC1=CC=CC=C1 | C20H21N3O4
